US07105509B2
2-(3,4-Dichlorobenzyl)-pent4-enoic acid [(S)-5-(2-fluorophenyl)-2-oxo-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-benzo[e][1,4]diazepin-3-yl]-amide (1:1 mixture of diastereomers)
Prepared from 3-amino-5-(2-fluoro-phenyl)-1-(2,2,2-trifluoroethyl)-2-oxo-1,3-dihydro-2H-benzo[e][1,4]diazepine [available in an analogous fashion to (S)-3-amino-1-methyl-5-phenyl-1,3dihydro-2H-benzole][1,4]diazepin-2-one (i.e. J. Org. Chem. 1987, 52, 3232)] and (2S)-2-(3,4-dichlorobenzyl)-pent-4-enoic acid using the procedure of Step 1E shown in Scheme 1.

reactant | 3-amino-5-(2-fluoro-phenyl)-1-(2,2,2-trifluoroethyl)-2-oxo-1,3-dihydro-2H-benzo[e][1,4]diazepine | NC1N=C(C2=C(N(C1=O)CC(F)(F)F)C=CC=C2)C2=C(C=CC=C2)F | C17H13F4N3O
reactant | [1,4]diazepin-2-one | N=1C(C=NC=CC1)=O | C5H4N2O
reactant | (2S)-2-(3,4-dichlorobenzyl)-pent-4-enoic acid | ClC=1C=C(C[C@@H](C(=O)O)CC=C)C=CC1Cl | C12H12Cl2O2
product | 2-(3,4-Dichlorobenzyl)-pent4-enoic acid [(S)-5-(2-fluorophenyl)-2-oxo-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-benzo[e][1,4]diazepin-3-yl]-amide | FC1=C(C=CC=C1)C=1C2=C(N(C([C@H](N1)NC(C(CC=C)CC1=CC(=C(C=C1)Cl)Cl)=O)=O)CC(F)(F)F)C=CC=C2 | C29H23Cl2F4N3O2
